US07560558B2
Compound 86: Ethyl 2-[(6,7-dimethoxy-4-quinolyl)oxy]-5-iodobenzoate
Ethyl 5-iodosalicylate (457 mg), 4-chloro-6,7-dimethoxyquinoline (348 mg), and 4-dimethylaminopyridine (573 mg) were suspended in o-dichlorobenzene (1 ml), and the suspension was stirred at 120° C. overnight. The reaction solution was cooled to room temperature, and the solvent was removed by distillation under the reduced pressure. Water was then added to the reaction solution, and the mixture was extracted with chloroform. The chloroform layer was washed with water and was dried over anhydrous sodium sulfate. The solvent was removed therefrom by distillation under the reduced pressure, and the residue was purified by column chromatography using acetone-hexane to give the title compound (31 mg, yield 4%).

reactant | Ethyl 5-iodosalicylate | 457 mg | IC1=CC=C(C(C(=O)OCC)=C1)O | C9H9IO3
reactant | 4-chloro-6,7-dimethoxyquinoline | 348 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
catalyst | 4-dimethylaminopyridine | 573 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | o-dichlorobenzene | 1 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | Ethyl 2-[(6,7-dimethoxy-4-quinolyl)oxy]-5-iodobenzoate | 31 mg, yield 4% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C(=O)OCC)C=C(C=C1)I | C20H18INO5
